US07622589B2
79A) 2-(Dimethylamino)-6-(trifluoromethyl)nicotinic acid
A mixture of 2-chloro-6-(trifluoromethyl)nicotinic acid (APOLLO, 2.5 g, 11.1 mmol) and 2M N-methylmethanamine in THF solvent (50 ml, 25 mmol) was stirred for 24 hours at room temperature according to J. Med. Chem., 2005, 48, 71. Then the reaction mixture-was evaporated in vacuo to give the title compound (2.5 g, 96%).

reactant | 2-chloro-6-(trifluoromethyl)nicotinic acid | 11.1 mmol, 2.5 g | ClC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO2
reactant | N-methylmethanamine | 2M | CNC | C2H7N
reactant | THF | 25 mmol, 50 ml | C1CCOC1 | C4H8O
product | 2-(Dimethylamino)-6-(trifluoromethyl)nicotinic acid | 2.5 g, 96% | CN(C1=C(C(=O)O)C=CC(=N1)C(F)(F)F)C | C9H9F3N2O2
